US07608633B2
B. 3-Acetylindole-5-carboxylic acid
0.686 g (3.16 mmol) methyl-3-acetylindole-5-carboxylate are dissolved under heat in 10 ml tetrahydrofurane and 10 ml ethylene glycol and mixed with 7.08 g (0.13 mol) potassium hydroxide. Having stirred under reflux for 30 minutes, the reaction mixture is cooled to room temperature. The tetrahydrofurane is removed on the rotary evaporator and the solution is acidified under ice cooling with 20 ml 6N hydrochloric acid. The precipitated light violet precipitate is sucked off and dried.

reactant | methyl-3-acetylindole-5-carboxylate | 3.16 mmol, 0.686 g | COC(=O)C=1C=C2C(=CNC2=CC1)C(C)=O | C12H11NO3
reactant | ethylene glycol | 10 ml | C(CO)O | C2H6O2
reactant | potassium hydroxide | 0.13 mol, 7.08 g | [OH-].[K+]
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
product | 3-Acetylindole-5-carboxylic acid | C(C)(=O)C1=CNC2=CC=C(C=C12)C(=O)O | C11H9NO3
